US09284323B2
3-Methyl-4-m-tolylbutanoic acid (20.6 g, 107 mmol, dissolved in 125 mL DCM) was added slowly to triflic acid (250 g, 1.7 mol) that was pre-cooled to 0° C. under an Ar atmosphere. After 30 minutes, the volume of the reaction is doubled with DCM and poured slowly onto 1.5 L crushed ice. The resulting icy slurry is allowed to stir and come to room temperature over 1 hour. The resulting aqueous layer was extracted with DCM and the combined organics dried over anhydrous MgSO4 and concentrated in vacuo. The procedure was repeated once and the two lots of crude product were combined and purified via elution on Isco silica gel column chromatography (0-15% EtOAc/hex) to afford 3,6-dimethyl-3,4-dihydronaphthalen-1(2H)-one. LCMS-ESI+ (m/z): [M+H]+ calcd for C12H15O: 175.3. found: 175.4.

reactant | 3-Methyl-4-m-tolylbutanoic acid | 107 mmol, 125 mL, 20.6 g | CC(CC(=O)O)CC=1C=C(C=CC1)C | C12H16O2
reactant | triflic acid | 1.7 mol, 250 g | OS(=O)(=O)C(F)(F)F | CHF3O3S
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3,6-dimethyl-3,4-dihydronaphthalen-1(2H)-one | CC1CC(C2=CC=C(C=C2C1)C)=O | C12H14O
